US09169254B2
NaH (110 mg, 2.75 mmol, 60% oily suspension) and NaI (274 mg, 1.83 mmol) were added to a solution of (4-bromo-3,5-dimethyl-phenyl)-(3-hydroxy-azetidin-1-yl)-methanone (130 mg, 0.458 mmol) and (3-chloro-propyl)-dimethyl-amine (289 mg, 1.83 mmol) in toluene (1.8 ml). The mixture was stirred at 110° C. for 15 hours. The reaction mixture was diluted with AcOEt, and the organic layer was then sequentially washed with a saturated aqueous NaHCO3 solution, water and a saturated aqueous NaCl solution. Further, the organic layer was dried over sodium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane/AcOEt) to give (4-bromo-3,5-dimethyl-phenyl)-[3-(3-dimethylamino-propoxy)-azetidin-1-yl]-methanone (46 mg, 27%).

reactant | NaH | 2.75 mmol, 110 mg | [H-].[Na+]
reactant | NaI | 1.83 mmol, 274 mg | [Na+].[I-]
reactant | (4-bromo-3,5-dimethyl-phenyl)-(3-hydroxy-azetidin-1-yl)-methanone | 0.458 mmol, 130 mg | BrC1=C(C=C(C=C1C)C(=O)N1CC(C1)O)C | C12H14BrNO2
reactant | (3-chloro-propyl)-dimethyl-amine | 1.83 mmol, 289 mg | ClCCCN(C)C | C5H12ClN
solvent | toluene | 1.8 ml | C1(=CC=CC=C1)C | C7H8
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (4-bromo-3,5-dimethyl-phenyl)-[3-(3-dimethylamino-propoxy)-azetidin-1-yl]-methanone | 46 mg, 27% | BrC1=C(C=C(C=C1C)C(=O)N1CC(C1)OCCCN(C)C)C | C17H25BrN2O2
